US05010189
As directed by D. R. M. Walton and F. Waugh, J. Organomet. Chem. 37, 45 (1972), bis(trimethylsilyl)acetylene is acylated with cyclohexylacetic acid chloride and hydrolysed with aqueous/methanolic borax solution to 1-cyclohexyl-3-butyn-2-one. Reduction with (S)-B-(3-pinanyl)-9-borabiccyclo[3.3.1]nonane ((S)-Alpine-BoraneR, Aldrich, 88% ee) as directed by M. M. Midland et al., Tetrahedron 40, 1371 (1984) yields 1-cyclohexyl-3-butyn-2(S)-ol.

reactant | bis(trimethylsilyl)acetylene | C[Si](C)(C)C#C[Si](C)(C)C | C8H18Si2
reactant | cyclohexylacetic acid chloride | C1(CCCCC1)CC(=O)Cl | C8H13ClO
reactant | 1-cyclohexyl-3-butyn-2-one | C1(CCCCC1)CC(C#C)=O | C10H14O
reactant | nonane | CCCCCCCCC | C9H20
product | 1-cyclohexyl-3-butyn-2(S)-ol | C1(CCCCC1)C[C@@H](C#C)O | C10H16O
